US09290517B2
Step A: (3R,3aR,6R,6aR)-6-[6-chloro-5-[4-[1-(2,2,2-trifluoroethyl)pyrrolidin-3-yl]phenyl]-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
Tripotassium phosphate 2.0 M aqueous solution (0.6 ml, 1.200 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (25.2 mg, 0.031 mmol) were added to a stirred solution of (3R,3aR,6R,6aR)-6-[6-chloro-5-iodo-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (147.1 mg, 0.266 mmol) and 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-(2,2,2-trifluoroethyl)pyrrolidine (94.6 mg, 0.266 mmol) in dioxane (2.1 ml). The reaction mixture was degassed (3×) and placed under nitrogen before being heated to 80° C. After 18 hours, the reaction mixture was cooled to room temperature before being partitioned between EtOAc (50 ml) and water (50 ml). The aqueous layer was separated and extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×30 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a yellow residue. The residue was dissolved in DCM, loaded onto a 5 g silica solid load cartridge, and purified using an ISCO Rf and a 12 g silica column (CV=16.8 ml) by eluting as follows: 100% Hex (5 CV), 0-70% EtOAc/Hex gradient (50 CV), 70% EtOAc/Hex (35 CV) at 30 ml/min. The product fractions were combined and evaporated under reduced pressure to give the desired product as a yellow residue. LC-MS: calculated for C30H38ClF3N4O5Si 654.23 observed m/e: 655.32 (M+H)+ (Rt 1.37/2 min)

reactant | Tripotassium phosphate | 2.0 M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (3R,3aR,6R,6aR)-6-[6-chloro-5-iodo-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 0.266 mmol, 147.1 mg | ClC=1C=C2C(=NC1I)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C18H25ClIN3O5Si
reactant | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-(2,2,2-trifluoroethyl)pyrrolidine | 0.266 mmol, 94.6 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1CN(CC1)CC(F)(F)F)C | C18H25BF3NO2
solvent | dioxane | 2.1 ml | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (3R,3aR,6R,6aR)-6-[6-chloro-5-[4-[1-(2,2,2-trifluoroethyl)pyrrolidin-3-yl]phenyl]-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1CN(CC1)CC(F)(F)F)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C30H38ClF3N4O5Si
